Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abnormal uterine bleeding
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
31 G2P1011 with history of PE (___) and unprovoked LUE DVT x 
1 (___), currently anticoagulated on xarelto, presents with 
heavy vaginal bleeding x4 days. Patient presented to ___ 
over the weekend due to heavy bleeding and feeling faint and 
TVUS revealed no IUD in the uterus. She was discharged without 
any medications.

She continues to pass quarter size blood clots and has crampy 
pelvic and back pain. She reports fatigue, lightheadedness, and 
headaches. Denies CP/SOB.
 
Past Medical History:
PGyn: Not currently sexually active in the past month, but has a
male partner. Had been amenorrheic with IUD in place until now.
Prior to this had moderate flow and regular monthly periods.

POb: G1 TAB, G2 c-section for arrest of dilation and NRFHT

PMH: obesity, sickle cell trait, hx of PE and LUE DVT, asthma, 
hx of expelled IUD in ___

PSH: c-section, wisdom teeth, D&C

 
Social History:
denies etoh/tobacco/drug use

 
Physical Exam:
Admission PE
VS 98.1 106->91 123/58 98%
orthostatics: 
 lying ___
 standing 126/78 105
Gen: NAD
CV: RRR
Pulm: CTAB
Abd: obese, soft, NT
Pelvic: 25cc clot evacuated from cervical os with 2 scopettes of
BRB, closed os, no CMT, unable to appreciate uterus or adnexa 
due
to habitus
Ext: NT, no edema

Discharge exam:
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
GU: pad with minimal spotting
Ext: no TTP

 
Pertinent Results:
___ 10:37AM   HCT-27.6*
___ 06:26AM   HCT-26.6*
___ 07:35PM   CREAT-0.9
___ 07:35PM   estGFR-Using this
___ 07:35PM   HCG-<5
___ 07:33PM   WBC-10.5 RBC-3.79* HGB-10.9* HCT-29.3*# 
MCV-77* MCH-28.6 MCHC-37.0* RDW-13.9
___ 07:33PM   PLT COUNT-248
___ 07:33PM   ___ PTT-34.9 ___
___ 07:33PM   ___  KUB
FINDINGS:  
  
The bowel gas pattern is nonspecific and nonobstructive. There 
are no 
abnormally dilated loops of small or large bowel. There is no 
evidence of 
pneumatosis or pneumoperitoneum. The visualized osseous 
structures are 
unremarkable.No soft tissue calcifications or radiopaque foreign 
bodies are detected. 
  
IMPRESSION:  
  
No IUD detected. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the GYN service with 
abnormal uterine bleeding. She was started on provera 10mg 
daily. Her bleeding improved and by time of discharge, her HCT 
was stable at around 27. Her xarelto was immediately held due to 
possibility of OR procedure but was resumed when patient's 
bleeding improved. Given the question of expelled IUD, a KUB was 
obtained which showed no IUD. 

By time of discharge, she was tolerating a regular diet, 
ambulating independently, and bleeding had improved. She was 
then discharged home in stable condition with outpatient 
follow-up scheduled

 
Medications on Admission:
xarelto 20mg daily, pulmicort prn, albuterol prn, folic acid, 
iron, MVI, Vit D

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
do not exceed 4g in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6 hours Disp 
#*30 Tablet Refills:*0
2. Ferrous Sulfate 325 mg PO BID 
Take with stool softener (Colace). Goal 1 bowel movement daily 
without straining. 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*1
3. MedroxyPROGESTERone Acetate 10 mg PO DAILY 
RX *medroxyprogesterone 10 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1
4. Rivaroxaban 20 mg PO/NG DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after presenting 
with heavy vaginal bleeding. You were started on provera to help 
with the vaginal bleeding. You have recovered well and the team 
believes you are ready to be discharged home. Please call Dr. 
___ office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.
Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___